US08013008B2
(2S,3S)-2-ethyl-3-methylpyrrolidin-3-ol 0.5 oxalate
By an operation in the same manner as in Reference Example 4 and using benzyl (2S,3S)-2-ethyl-3-hydroxy-3-methylpyrrolidine-1-carboxylate (2.84 g) and 50% water containing-10% Pd/C (0.31 g), the title compound was obtained as a colorless solid (yield: 1.77 g, yield: 88%).

reactant | benzyl (2S,3S)-2-ethyl-3-hydroxy-3-methylpyrrolidine-1-carboxylate | 2.84 g | C(C)[C@@H]1N(CC[C@]1(C)O)C(=O)OCC1=CC=CC=C1 | C15H21NO3
catalyst | Pd/C | 0.31 g | [Pd] | Pd
solvent | water | O | H2O
product | (2S,3S)-2-ethyl-3-methylpyrrolidin-3-ol | C(C)[C@@H]1NCC[C@@]1(O)C | C7H15NO
